US06444668B1
6-(4-Chloro-phenyl)-4,4-dimethyl-1,4-dihydro-benzo[d][1,3]-oxazin-2-one
Prepared according to Procedure A from 6-bromo-4,4-dimethyl -1,4-dihydro-benzo[d][1,3]oxazin-2-one and 4- chlorophenyl boronic acid. White solid: mp 255-257° C.; 1H-NMR (DMSO-d6) δ10.3 (s, 1H), 7.7 (d, 2H, J=8.52 Hz), 7.55 (m, 2H), 7.5 (d, 2H, J=8.52 Hz), 6.96 (d, 1H, J=8.52 Hz), 1.7 (s, 6H); MS (ESI) m/z 288 ([M+H]+, 70%); Anal. Calc. For C16H14CINO2: C, 66.79, H, 4.90, N, 4.87. Found: C, 66.34, H, 4.76, N, 4.75

reactant | 6-bromo-4,4-dimethyl -1,4-dihydro-benzo[d][1,3]oxazin-2-one | BrC1=CC2=C(NC(OC2(C)C)=O)C=C1 | C10H10BrNO2
reactant | 4- chlorophenyl boronic acid | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
product | 6-(4-Chloro-phenyl)-4,4-dimethyl-1,4-dihydro-benzo[d][1,3]-oxazin-2-one | ClC1=CC=C(C=C1)C1=CC2=C(NC(OC2(C)C)=O)C=C1 | C16H14ClNO2
